US07015218B1
1-(4-Chlorophenyl)-N-(3-cyano-4-{4-[2-(2-hydroxyethoxy) ethyl]piperazin-1-yl}phenyl)-5-methylpyrazole-4-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (2 g) and 5-amino-2-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}benzonitrile (4.2 g), the title compound (2.8 g) was obtained, melting point: 196° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 2 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}benzonitrile | 4.2 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCOCCO | C15H22N4O2
product | 1-(4-Chlorophenyl)-N-(3-cyano-4-{4-[2-(2-hydroxyethoxy) ethyl]piperazin-1-yl}phenyl)-5-methylpyrazole-4-carboxamide | 2.8 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)CCOCCO)C#N | C26H29ClN6O3
